US05691384
Combine 4-(4-chlorobutoxy)benzophenone (740 g, 1.59 mol), diethylamine (3.7 L), and potassium iodide (50 g) in water (3.7 L). Heat to reflux. After 19 hours, evaporate the reaction mixture in vacuo to give an aqueous residue. Extract two times with ethyl acetate. Extract the combined organic layers with aqueous 10% hydrochloric acid solution and separate the acidic aqueous layer. Combine the acidic aqueous layer and ethyl acetate. Slowly add aqueous 10% sodium hydroxide solution until the pH of the aqueous layer is about 9. Separate the organic layer, extract twice with water and then aqueous saturated sodium chloride solution. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 4-(4-diethylaminobutoxy)benzophenone.

reactant | 4-(4-chlorobutoxy)benzophenone | 1.59 mol, 740 g | ClCCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H17ClO2
reactant | diethylamine | 3.7 L | C(C)NCC | C4H11N
reactant | potassium iodide | 50 g | [I-].[K+]
solvent | water | 3.7 L | O | H2O
product | 4-(4-diethylaminobutoxy)benzophenone | C(C)N(CCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1)CC | C21H27NO2
